US07872014B2
A mixture of 4-(3,4-bis{[2-(methyloxy)ethyl]oxy}phenyl)-3-methyl-1H-pyrazol-5-amine (114 mg, 0.36 mmol), 3-chloro-4-hydroxybenzaldehyde (117 mg, 0.75 mmol) and trifluoroacetic acid (3 mL) was heated at 70° C. for 18 hours. Then the reaction mixture was concentrated, dissolved in 10 mL of N,N-dimethylformamide and purified by preparatory HPLC (Shimadzu LC-8A HPLC, Waters Xterra C18 30 mm×100 mm column, acetonitrile-water-trifluoroacetic eluent). After concentration then lyophillization of the pure fractions a yellow powder was obtained. It was dissolved in 4 mL of 1:1 methanol: 4M hydrogen chloride in dioxane, and evaporated to dryness (repeated three times) to give 2-chloro-4-(1-methyl-7,8-bis{[2-(methyloxy)ethyl]oxy}-3H-pyrazolo[3,4-c]isoquinolin-5-yl)phenol hydrochloride salt (84 mg, 0.17 mmol, 47% yield) 1H NMR (400 MHz, d6-DMSO): 10.65 (b, 1H), 7.68-7.67 (b, 2H), 7.53-7.48 (m, 2H), 7.16-7.14 (d, 1H), 4.45-4.43 (m, 2H), 4.09-4.07 (m, 2H), 3.80-3.78 (m, 2H), 3.68-3.66 (m, 2H), 3.36 (s, 3H), 3.30 (s, 3H), 2.81 (s, 3H); MS (EI) for C23H24ClN3O5: 458 (MH+).

reactant | 4-(3,4-bis{[2-(methyloxy)ethyl]oxy}phenyl)-3-methyl-1H-pyrazol-5-amine | 0.36 mmol, 114 mg | COCCOC=1C=C(C=CC1OCCOC)C=1C(=NNC1N)C | C16H23N3O4
reactant | 3-chloro-4-hydroxybenzaldehyde | 0.75 mmol, 117 mg | ClC=1C=C(C=O)C=CC1O | C7H5ClO2
reactant | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methanol | 4 mL | CO | CH4O
product | 2-chloro-4-(1-methyl-7,8-bis{[2-(methyloxy)ethyl]oxy}-3H-pyrazolo[3,4-c]isoquinolin-5-yl)phenol hydrochloride salt | 0.17 mmol, 84 mg, 47% yield | Cl.ClC1=C(C=CC(=C1)C1=NC2=C(C=3C=C(C(=CC13)OCCOC)OCCOC)C(=NN2)C)O | InChI=1S/C23H24ClN3O5.ClH/c1-13-21-15-11-19(31-8-6-29-2)20(32-9-7-30-3)12-16(15)22(25-23(21)27-26-13)14-4-5-18(28)17(24)10-14;/h4-5,10-12,28H,6-9H2,1-3H3,(H,25,26,27);1H
